US04929741
A solution of 30 g (93.6 mmol) of 1-hydroxy-4-[(3-methyl-2-butenyl)oxy]-1-(3,4,5-trimethoxyphenyl)-2-butyne in 350 ml of methylene chloride was added dropwise at 0° to a suspension of 122 g (1.4 mol) of manganese dioxide in 500 ml of methylene chloride. The reaction mixture was stirred at 0° for 3 hours, filtered over magnesium sulphate and concentrated. Flash chromatography of the residue on 1000 g of silica gel (elution agent methylene chloride/ethyl acetate 9:1) and subsequent crystallization of the product from ether/hexane yielded 4-[(3-methyl-2-butenyl)oxy]-1-(3,4,5-trimethoxyphenyl)-2-butyn-1-one of melting point 32°.

reactant | 1-hydroxy-4-[(3-methyl-2-butenyl)oxy]-1-(3,4,5-trimethoxyphenyl)-2-butyne | 93.6 mmol, 30 g | OC(C#CCOCC=C(C)C)C1=CC(=C(C(=C1)OC)OC)OC | C18H24O5
solvent | methylene chloride | 350 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 1.4 mol, 122 g | [O-2].[O-2].[Mn+4]
product | 4-[(3-methyl-2-butenyl)oxy]-1-(3,4,5-trimethoxyphenyl)-2-butyn-1-one | CC(=CCOCC#CC(=O)C1=CC(=C(C(=C1)OC)OC)OC)C | C18H22O5
